US06713474B2
A mixture of trans-5-[4-(aminomethyl)phenyl]-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine (50 mg, 0.119 mmol) in pyridine (2 mL) and dichloromethane (2 mL) was cooled to 0° C. then treated with benzoyl chloride (19 mg, 0.13 mmol). The mixture was allowed to warm to ambient temperature and stirred for 1 hour. The solvents were removed under reduced pressure then the residue was purified by preparative reverse phase chromatography to give trans-N1-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}benzyl)benzamide (50 mg) as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 9.08(t, 1H), 8.13(s, 1H), 7.91(m, 2H), 7.4-7.54(m, 8H), 6.0(bs, 2H), 4.53(m, 3H), 2.30-2.40(m, 5H), 2.15(s, 3H), 1.85-1.89(m, 10H), 1.43-1.46 (m, 2H); RP-HPLC (Hypersil HS C18, 5μm, 100 A, 250×4.6 mm; 5%-50% acetonitrile over 25 min, 1 mL/min) tr 18.20 min.; MS:MH+ 524.3.

reactant | trans-5-[4-(aminomethyl)phenyl]-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.119 mmol, 50 mg | NCC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C24H33N7
reactant | benzoyl chloride | 0.13 mmol, 19 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | trans-N1-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}benzyl)benzamide | 50 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(CNC(C1=CC=CC=C1)=O)C=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C31H37N7O
